US08053456B2
A tube was charged with N-(5-(5-isopropyl-2,4-dimethoxyphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)quinolin-6-amine (114 mg) and pyridine*HCl (4 g.), and placed under a nitrogen atmosphere. It was heated to 21° C. for 50 minutes, and then cooled. The solid was dissolved in ethyl acetate (20 mL) and washed with a saturated solution of ammonium chloride (3×20 mL). The organic layer was dried and evaporated to give 4-isopropyl-6-(4-(1-methyl-1H-indol-5-yl)-5-(quinolin-6-ylamino)-4H-1,2,4-triazol-3-yl)benzene-1,3-diol (42 mg). In some cases column chromatography was necessary for purification. 1H-NMR (CDCl3): 8.69 (dd, 1H); 8.50 (d, 1H), 8.22 (d, 1H), 7.98 (d, 1H), 7.75 (d, 1H), 7.63 (d, 1H), 7.45-7.36 (m, 2H), 7.33 (d, 1H), 7.27 (dd, 1H), 6.64 (d, 1H), 6.42 (s, 1H), 6.30 (s, 1H), 3.98 (s, 3H); 2.83 (q, 1H); 0.50 (m, 6H). MS: expected ion=491.4; observed ion=491.

reactant | N-(5-(5-isopropyl-2,4-dimethoxyphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)quinolin-6-amine | 114 mg | C(C)(C)C=1C(=CC(=C(C1)C=1N(C(=NN1)NC=1C=C2C=CC=NC2=CC1)C=1C=C2C=CN(C2=CC1)C)OC)OC | C31H30N6O2
reactant | pyridine | 4 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-isopropyl-6-(4-(1-methyl-1H-indol-5-yl)-5-(quinolin-6-ylamino)-4H-1,2,4-triazol-3-yl)benzene-1,3-diol | 42 mg | C(C)(C)C1=C(C=C(C(=C1)C1=NN=C(N1C=1C=C2C=CN(C2=CC1)C)NC=1C=C2C=CC=NC2=CC1)O)O | C29H26N6O2
